US08097708B2
Synthesis of (1R,2R)-2-[(3-aminopropyl)amino]-1-(4-nitrophenyl)propane-1,3-diol
By using (1S,2S)-(+)-2-amino-1-(4-nitrophenyl)-1,3-propanediol (3.0 g) and N-(3-bromopropyl)phthalimide (4.53 g) as starting materials, the title compound (2.54 g) was obtained in the same manner as that of Reference Example 139.

reactant | (1S,2S)-(+)-2-amino-1-(4-nitrophenyl)-1,3-propanediol | 3.0 g | N[C@H]([C@@H](O)C1=CC=C(C=C1)[N+](=O)[O-])CO | C9H12N2O4
reactant | N-(3-bromopropyl)phthalimide | 4.53 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
product | (1R,2R)-2-[(3-aminopropyl)amino]-1-(4-nitrophenyl)propane-1,3-diol | 2.54 g | NCCCN[C@@H]([C@H](O)C1=CC=C(C=C1)[N+](=O)[O-])CO | C12H19N3O4
